US05464788
2-Methoxy-4-(1-acetyl-4-piperidyloxy)phenylacetic acid (35 mg, 0.11 mmol), 4-(2-methylphenyl)piperazine-2-carboxamide (25 mg, 0.11 mmol), EDC (28 mg, 0.15 mmol), and HBT (17 mg, 0.13 mmol) were combined in DMF (4 ml) under nitrogen. The mixture was rendered basic by addition of triethylamine (0.043 ml) and stirred at ambient temperature for 18 hours. The mixture was concentrated in vacuo and the residue was chromatographed on silica gel eluted with 2% methanol in methylene chloride. The combined product fractions were evaporated to dryness in vacuo and the residue was rechromatographed on silica gel eluted with 96:4:0.4 methylene chloride:methanol:concentrated ammonia. The combined product fractions were evaporated to dryness in vacuo and the residue was concentrated from methanol and ether to give 1-(2-methoxy-4-(1-acetyl-4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl)-piperazine-2-carboxamide.

reactant | 2-Methoxy-4-(1-acetyl-4-piperidyloxy)phenylacetic acid | 0.11 mmol, 35 mg | COC1=C(C=CC(=C1)OC1CCN(CC1)C(C)=O)CC(=O)O | C16H21NO5
reactant | 4-(2-methylphenyl)piperazine-2-carboxamide | 0.11 mmol, 25 mg | CC1=C(C=CC=C1)N1CC(NCC1)C(=O)N | C12H17N3O
reactant | EDC | 0.15 mmol, 28 mg
reactant | triethylamine | 0.043 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 1-(2-methoxy-4-(1-acetyl-4-piperidyloxy)phenylacetyl)-4-(2-methylphenyl)-piperazine-2-carboxamide | COC1=C(C=CC(=C1)OC1CCN(CC1)C(C)=O)CC(=O)N1C(CN(CC1)C1=C(C=CC=C1)C)C(=O)N | C28H36N4O5
